US07875639B2
ethyl(2-imino-1,3-thiazol-3(2H)-yl)acetate hydrobromide
A solution of 2-aminothiazole (27 g, 0.27 mol) and bromo-acetic acid ethyl ester (36 mL, 0.32 mol) in 540 mL of acetone was heated at 50° C. for 6 hours. The mixture was concentrated under reduced pressure and the residue was triturated with ethanol. The solid was collected by filtration to provide 58 g (80%) of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ ppm 1.25 (t, J=7.1 Hz, 3 H), 4.20 (q, J=7.1 Hz, 2 H), 5.00 (s, 2 H), 7.04 (d, J=4.7 Hz, 1 H), 7.38 (d, J=4.7 Hz, 1 H), 9.62 (s, 1 H).

reactant | 2-aminothiazole | 0.27 mol, 27 g | NC=1SC=CN1 | C3H4N2S
reactant | bromo-acetic acid ethyl ester | 0.32 mol, 36 mL | C(C)OC(CBr)=O | C4H7BrO2
solvent | acetone | 540 mL | CC(=O)C | C3H6O
product | ethyl(2-imino-1,3-thiazol-3(2H)-yl)acetate hydrobromide | 58 g, 80% | Br.C(C)OC(CN1C(SC=C1)=N)=O | InChI=1S/C7H10N2O2S.BrH/c1-2-11-6(10)5-9-3-4-12-7(9)8;/h3-4,8H,2,5H2,1H3;1H
